US05206370
Preparation of succinimidyl 4-hydrazinobenzoate hydrochloride hydrochloride [2.5-pyrrolidinedione, 1-[(4-hydrazinobenzoyl)oxy]-monohydrochloride]
Synthesis of 4-BOC-hydrazinobenzoic acid--To a stirred solution of 4-hydrazinobenzoic acid (1 equivalent) and triethylamine (3 equivalents) in dimethylformamide (5 mg/1) was added dropwise a solution of BOC-ON (1 equivalent) in dimethylformamide. The reaction mixture was stirred at room temperature for 3 hours. Ten percent aqueous hydrochloric acid was added and subsequently the solution became cloudy. The solution was extracted with ethyl acetate and the combined organic extracts were washed with water, dried over magnesium sulfate, filtered and concentrated under reduced pressure to give a brown solid. The solid was recrystallized from chloroform to give the desired product as a pale brown solid; yield 69%. Analysis:

reactant | 4-BOC-hydrazinobenzoic acid | C(=O)(OC(C)(C)C)C1=CC(=C(C(=O)O)C=C1)NN | C12H16N2O4
reactant | 4-hydrazinobenzoic acid | 1 equivalent | N(N)C1=CC=C(C(=O)O)C=C1 | C7H8N2O2
reactant | triethylamine | 3 equivalents | C(C)N(CC)CC | C6H15N
reactant | BOC-ON | 1 equivalent | CC(C)(C)OC(=O)ON=C(C#N)C1=CC=CC=C1 | C13H14N2O3
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 5 mg | CN(C=O)C | C3H7NO
product | succinimidyl 4-hydrazinobenzoate hydrochloride hydrochloride | yield 69% | Cl.Cl.N(N)C1=CC=C(C(=O)ON2C(CCC2=O)=O)C=C1 | InChI=1S/C11H11N3O4.2ClH/c12-13-8-3-1-7(2-4-8)11(17)18-14-9(15)5-6-10(14)16;;/h1-4,13H,5-6,12H2;2*1H
